*****************************************************************
* INFINEON Power Transistors                                    *
* SPICE Library for                                             *
*       OptiMOS5                                                *
* n-channel halfbridge transistors                              *
* Version 08112024                                              *
*                                                               *
*****************************************************************
*                                                               *
* The Simulation Model is subject to change without notice. In  *
* addition, models can be a useful tool in evaluating device    *
* performance, they cannot reflect the accurate device          *
* performance under all conditions, nor are they intended to    *
* replace bread boarding for final verification. Infineon       *
* therefore does not assume any warranty or liability           *
* whatsoever arising from their use. Infineon does not assume   *
* any warranty or liability for the values and functions of the *
* Simulation Model.                                             *
* The methods and results of the Simulation Model are to the    *
* best of our knowledge                                         *
* correct. However, the user is fully responsible to verify and *
* validate these results under the operating conditions and in  *
* the environment of its application. Infineon will not bear    *
* the responsibility arising out of or in connection with any   *
* malfunction of the Simulation Models.                         *
* Models provided by Infineon are not warranted by Infineon as  *
* completely and comprehensively representing all the           *
* specifications and operating characteristics of the           *
* semiconductor products to which these models relate. The      *
* models describe the characteristics of typical devices. In    *
* all cases, the current data sheet information for a given     *
* device is the conclusive design guideline and the only actual * 
* performance specification.                                    *
*                                                               *
*                                                               *
* This library contains models of the following INFINEON        *
* Halfbridge devices:                                           *
*                                                               *
*   OptiMOS5 60V                                                *
*    ISG0614N06NM5H_hb                                          *
*    ISG0614N06NM5HSC_hb                                        *
*                                                               *
*****************************************************************
* thermal nodes of level 3 models, overmold                     *
*                                                               *
*  .SUBCKT ISG0614N06NM5H_hb VIN VSW GND GATEH GATEL            *
*                           TJH TJL TCASEH TCASEL               *
*                                                               *
*  VIN: drain connection of high side transistor                *
*  VSW: drain of high side, connected with source of low side   *
*  GND: source of low side transistor                           *
*  GATEH, GATEL: gates of high side and low side transistor     *
*  TJH, TJL: potential=temperature (in °C) at junction of high  *
*          and low side transistor (typically not connected)    *
*  TCASEH TCASEL: bottom side thermal connections.              *
*          Connect external heat sinks etc.                     *
*          (ideal heat sink can be modeled by using a voltage   *
*          source stating the ambient temperature in °C between *
*          the surface node and ground.                         *
***                                                           ***
* thermal nodes of level 3 models with dual side cooling:       *
*                                                               *
*  .SUBCKT ISG0614N06NM5HSC_hb VIN VSW GND GATEH GATEL          *
*                           TJH TJL TBOTH TBOTL TTOPH TTOPL     *
*                                                               *
*  VIN: drain connection of high side transistor                *
*  VSW: drain of high side, connected with source of low side   *
*  GND: source of low side transistor                           *
*  GATEH, GATEL: gates of high side and low side transistor     *
*  TJH, TJL: potential=temperature (in °C) at junction of high  *
*          and low side transistor (typically not connected)    *
*  TBOTH, TBOTL, TTOPH, TTOPL: top side and bottom side         *
*          thermal connections. Connect external heat sinks etc.*
*          (ideal heat sink can be modeled by using a voltage   *
*          source stating the ambient temperature in °C between *
*          the surface node and ground.                         *
*****************************************************************
*****************************************************************




.SUBCKT S5_60_e1_var dd g s0 sp Tj PARAMS: a=1 Rsp=1 dVth=0 dR=0 dgfs=0 Inn=1
+Unn=1 Rmax=1 gmin=1 Rs=1 Rp=1 dC=0 Rm=1u

.PARAM b0=70.2        p0=7.92        p1=-29.8m      p2=53u         mubet=1.3      fbet=0
.PARAM Vth0=3.98      c=1.47         Fm=220m        Fn=500m        al=500m        auth=3.5m
.PARAM dvx=550m       dvgs=100m      auth_sub=3.5m

.PARAM Rd=7.7m        nmu=3.15       Rf=600m

.PARAM lnIsj=-27.24   ndi=1.08       Rdi=5m         nmu2=0         n_Isj=0        UB=66
.PARAM ab=30m         ab2=0          UT=100m        lB=-23         td=10n         ta=10n

.PARAM kbq=85.8u      Tref=298       T0=273

.PARAM f3=465p        rc1=80p        f3a=90p

.PARAM f4=29.27p      f5=29.27p      sl=1.21p       ps1=56.43p     ps2=-152.19m   ps3=34.74p
.PARAM ps4=-956.13m   ps5=3.5p       ps6=10p        ps7=0          pc0=25p

.PARAM q83=60p        q84=-37.93m    qs7=59.67p     qs8=-841.35m

.PARAM q80=210p       q81=210p       q82=6.5p       q85=0          qs1=74.03p     qs2=4.28p
.PARAM qs3=-37.93m    f2r=30.04

.PARAM x1={(q80-q81)/q82}       x2={q80/q82}
.PARAM y1={(f4-f5)/sl}          y2={f4/sl}
.PARAM Vmin=2.98      Vmax=4.98      dCmax=330m
.PARAM Vth={Vth0+(Vmax-Vth0)*limit(dVth,0,1)-(Vmin-Vth0)*limit(dVth,-1,0)}
.PARAM q0={b0*((1-fbet)*(T0/Tref)**mubet+fbet)*a}
.PARAM q1={(Unn-Inn*Rs-Vth0)*q0}
.PARAM q2={(Fm*SQRT(0.4)-c)*Inn*q0}
.PARAM Rlim={(q1+2*q2*Rmax-SQRT(q1**2+4*q2))/(2*q2)}
.PARAM dRd={Rd/a+if(dVth==0,limit(dR,0,1)*max(Rlim-Rd/a-Rs-Rp,0),0)}
.PARAM bm={c/((1/gmin-Rs)**2*Inn*a*((1-fbet)*(T0/Tref)**mubet+fbet))}
.PARAM bet={b0+(b0-bm)*if(dR==0,if(dVth==0,limit(dgfs,-1,0),0),0)}
.PARAM dC1={1+dCmax*limit(dC,0,1)}
.PARAM dC2={1+dCmax*limit(dC,0,1)}

.PARAM Cgs0={(f3*a+rc1)*dC1}
.PARAM Cgs1={f3a*a*dC1}

.PARAM Cds2={qs7*a*dC1}
.PARAM Cds3={q83*a*dC1}
.PARAM Cds5={qs1*a*dC1}
.PARAM Cds6={(a*qs2*(1+f2r/sqrt(a)))*dC1}
.PARAM Cds8={q80*a*dC1}

.PARAM Cdg1={(ps1*a+pc0*sqrt(a))*dC2}
.PARAM Cdg2={ps3*a*dC2}
.PARAM Cdg3={(ps5*a+ps6)*dC2}
.PARAM Cdg4={f4*a*dC2}
.PARAM dRdi={Rdi/a}

.FUNC Ue(g,y,w)  {(g-Vth+auth*(w-Tref)+Fm*y**Fn)}
.FUNC Ue1(g,y,w) {Ue(g,y,w)+(1+limit(Ue(g,y,w)+dvx,0,1)**2*(2*limit(Ue(g,y,w)+dvx,0,1)-3))*(dvgs+(auth_sub-auth)*(w-Tref))}

.FUNC Ia(Uee,p,pp,z1) {if(Uee>pp,(Uee-c*z1)*z1,p*(pp-p)/c*exp((Uee-pp)/p))}
.FUNC Ih(Uds,T,p,Uee) {bet*((1-fbet)*(T0/T)**mubet+fbet)*Ia(Uee,p,min(2*p,p+c*Uds),min(Uds,Uee/(2*c)))}
.FUNC Jh(d,g,w,y,s,x) {a*((Ih(s*y+min(d,0),w,(p0+(p1+p2*w)*w)*kbq*w,Ue1(g,y,w))+exp(min(lB+(d-UB-ab*(w-Tref))/UT,24))))}

.FUNC Idiode(Usd,Tj,Iss) {exp(min(ln(Iss)+Usd/(ndi*kbq*Tj),7))-Iss}
.FUNC Idiod(Usd,Tj)      {a*Idiode(Usd,Tj,exp(min(lnIsj+(Tj/Tref-1)*1.12/(ndi*kbq*Tj),7))*(Tj/Tref)**n_Isj)}

.FUNC Pr(Vss0,Vssp)  {Vss0*Vss0/Rm+Vssp*Vssp/Rsp}
.FUNC Q01(Uds) {a*(limit(Uds,x1,x2)*(q80-q82/2*limit(Uds,x1,x2))+min(Uds-x1,0)*q81-max(x1,0)*(q80-q81)/2)}
.FUNC Q02(Udg) {a*(limit(Udg,y1,y2)*(f4-sl/2*limit(Udg,y1,y2))+min(Udg-y1,0)*f5-max(y1,0)*(f4-f5)/2)}

C_Cgs  g      s      {Cgs0}
C_Cgs1 g      sp     {Cgs1}

E_Eds3 d      edep3  VALUE {V(d,s)-I(V_sense3)/Cds3}
C_Cds3 edep3  s      {Cds3}
E_Eds2 d      edep2  VALUE {if(qs8==0,0,V(d,s)-(exp(qs8*max(V(d,s),-1))-1)/min(qs8,-1u)+min(V(d,s)+1,0)*exp(-qs8))}
C_Cds2 edep2  s      {Cds2}

C_Cds5 d      sp     {Cds5}
E_Eds6 d      edep6  VALUE {if(qs3==0,0,V(d,sp)-(exp(qs3*max(V(d,sp),0))-1)/min(qs3,-1u)-min(V(d,sp),0))}
C_Cds6 edep6  sp     {Cds6}
E_Eds8 d      edep8  VALUE {V(d,sp)-Q01(V(d,sp))/Cds8}
C_Cds8 edep8  sp     {Cds8}

E_Edg1 d    ox1 VALUE {if(ps2==0,0,V(d,g)-(exp(ps2*max(V(d,g),0))-1)/min(ps2,-1u)-min(V(d,g),0))}
C_Cdg1 ox1  g   {Cdg1}
E_Edg2 d    ox2 VALUE =
+{if(ps4==0,0,V(d,g)-((exp(ps4*(max(V(d,g)+ps7,0)))-exp(ps4*max(ps7,0)))/min(ps4,-1u)+min(V(d,g)+max(ps7,0),max(0,-ps7))))}
C_Cdg2 ox2  g   {Cdg2}
C_Cdg3 d    g   {Cdg3}
E_Edg4 d    ox4 VALUE {V(d,g)-Q02(V(d,g))/Cdg4}
C_Cdg4 ox4  g   {Cdg4}

Rfp     s sp    {Rsp}

G_chan   d5a   s  VALUE={Jh(V(d5a,s),V(g,s),T0+limit(V(Tj),-200,300),(SQRT(1+4*al*max(V(d5a,s),0))-1)/2/al,sgn(V(d5a,s)),0)}
Rd06     d5a  d5  1u
V_sm     d    d5  0
G_RMos   d1    d  VALUE={V(d1,d)/(Rf*dRd+(1-Rf)*dRd*((limit(V(Tj),-200,999)+T0)/Tref)**nmu)}
V_sense  dd   d1  0
G_diode   s   d3  VALUE={Idiod(V(s,d3),T0+limit(V(Tj),-200,499))}
G_Rdio   d2   d1  VALUE={V(d2,d1)/(dRdi*((limit(V(Tj),-200,999)+T0)/Tref)**nmu2)}
V_sense2 d2   d3  0


L_L001 a c {td/(ta+td)}
R_R001 a b {1/ta}
V_sense3 c 0 0
E_E001 b 0 VALUE {I(V_sense2)}
E_E002 e 0 VALUE {Cds3*((exp(q84*max(V(d,s),-1))-1)/min(q84,-1u)+min(V(d,s)+1,0)*exp(-q84))}
R_R002 e c 1
R_R003 a 0 500Meg

R1        g    s  1G
Rd01      d    s  500Meg
Rd02     d2    s  500Meg
Rd03     d1    d  1k
Rd07     d3    s  1G
Rssp      g   sp  100Meg

Rmet      s    s0 {Rm}


G_TH      0   Tj  VALUE =
+{(I(V_sense)-I(V_sense2))*V(d1,d)+I(V_sm)*V(d,s)+I(V_sense2)*V(d1,s)+Pr(V(s,s0),V(s,sp))}


.ENDS

******************************************************************************************************

.SUBCKT ISG0614N06NM5H_hb_L1 VIN VSW GND GATEH GATEL PARAMS: dVth=0 dRdson=0 dgfs=0 dC=0 Zthtype=0 

.PARAM Ls=73p       Ld=76p       Ldh=8p       Lg=25p      Lsh=91p
.PARAM Rs=31u       Rg=1.8       Rd=62u       Rm=30u
.PARAM Inn=50       Unn=10       Rmax=1.61m   gmin=97
.PARAM act=8.63     Rsp=1 

X1  d1 g s sp TJL S5_60_e1_var PARAMS: a={act} Rsp={Rsp} dVth={dVth} dR={dRdson} dgfs={dgfs} Inn={Inn} Unn={Unn} 
                                        +Rmax={Rmax} gmin={gmin} Rs={Rs} Rp={Rd} dC={dC} Rm={Rm}
Rg    g1      g    {Rg}   
Lg    GATEL   g1   {Lg*if(dgfs==99,0,1)}
Gs    s1      s    VALUE={V(s1,s)/(Rs*(1+(limit(V(TJL),-200,999)-25)*4m)-Rm)}
Rsa   s1      s    1Meg
Ls    GND     s1   {Ls*if(dgfs==99,0,1)}
Rda   d1      d2   {Rd}
Ld    VSW    d2   {Ld*if(dgfs==99,0,1)}
Rsb   GND     s1   10
Rga   GATEL   g1   10
Rdb   VSW     d2   10

.PARAM Rsh=31u       Rgh=1.8       Rdh=62u       Rmh=30u
.PARAM Innh=50       Unnh=10       Rmaxh=1.61m   gminh=97
.PARAM acth=8.63     Rsph=1
.PARAM Lgh=1.1n

X2  d1h gh sh sph TJH S5_60_e1_var PARAMS: a={acth} Rsp={Rsph} dVth={dVth} dR={dRdson} dgfs={dgfs} Inn={Innh} Unn={Unnh} 
                                        +Rmax={Rmaxh} gmin={gminh} Rs={Rsh} Rp={Rdh} dC={dC} Rm={Rmh}
Rgh    g1h     gh    {Rgh}   
Lgh    GATEH   g1h   {Lgh*if(dgfs==99,0,1)}
Gsh    s1h     sh    VALUE={V(s1h,sh)/(Rsh*(1+(limit(V(TJH),-200,999)-25)*4m)-Rmh)}
Rsah   s1h     sh    1Meg
Lsh    VSW    s1h   {Lsh*if(dgfs==99,0,1)}
Rdah   d1h     d2h   {Rdh}
Ldh    VIN     d2h   {Ldh*if(dgfs==99,0,1)}
Rsbh   VSW    s1h   10
Rgah   GATEH   g1h   10
Rdbh   VIN     d2h   10
Rkel   sh      PHASE 100u

R2        w        0  1u
E2        Tj       w  VALUE={TEMP}
Vp        Tj1     Tj  0
R1        Tj     Tj1  1u
R3        Tj1    TJH  1u 
R4        Tj1    TJL  1u
G_powerl 0     Tj1  VALUE =
+{V(s1,s)*V(s1,s)/(Rs*(1+(limit(V(TJL),-200,999)-25)*4m)-Rm)+V(g,g1)*V(g,g1)/Rg+V(d1,d2)*V(d1,d2)/Rd}
G_powerh 0    Tj1   VALUE =
+{V(s1h,sh)*V(s1h,sh)/(Rsh*(1+(limit(V(TJH),-200,999)-25)*4m)-Rmh)+V(gh,g1h)*V(gh,g1h)/Rg+V(d1h,d2h)*V(d1h,d2h)/Rdh}

.ENDS

**********

.SUBCKT ISG0614N06NM5HSC_hb_L1 VIN VSW GND GATEH GATEL PARAMS: dVth=0 dRdson=0 dgfs=0 dC=0 Zthtype=0 

.PARAM Ls=73p       Ld=76p       Ldh=8p       Lg=25p      Lsh=91p
.PARAM Rs=31u       Rg=1.8       Rd=62u       Rm=30u
.PARAM Inn=50       Unn=10       Rmax=1.61m   gmin=97
.PARAM act=8.63     Rsp=1

X1  d1 g s sp TJL S5_60_e1_var PARAMS: a={act} Rsp={Rsp} dVth={dVth} dR={dRdson} dgfs={dgfs} Inn={Inn} Unn={Unn} 
                                        +Rmax={Rmax} gmin={gmin} Rs={Rs} Rp={Rd} dC={dC} Rm={Rm}
Rg    g1      g    {Rg}   
Lg    GATEL   g1   {Lg*if(dgfs==99,0,1)}
Gs    s1      s    VALUE={V(s1,s)/(Rs*(1+(limit(V(TJL),-200,999)-25)*4m)-Rm)}
Rsa   s1      s    1Meg
Ls    GND     s1   {Ls*if(dgfs==99,0,1)}
Rda   d1      d2   {Rd}
Ld    VSW    d2   {Ld*if(dgfs==99,0,1)}
Rsb   GND     s1   10
Rga   GATEL   g1   10
Rdb   VSW     d2   10

.PARAM Rsh=31u       Rgh=1.8       Rdh=62u       Rmh=30u
.PARAM Innh=50       Unnh=10       Rmaxh=1.61m   gminh=97
.PARAM acth=8.63     Rsph=1
.PARAM Lgh=1.1n

X2  d1h gh sh sph TJH S5_60_e1_var PARAMS: a={acth} Rsp={Rsph} dVth={dVth} dR={dRdson} dgfs={dgfs} Inn={Innh} Unn={Unnh} 
                                        +Rmax={Rmaxh} gmin={gminh} Rs={Rsh} Rp={Rdh} dC={dC} Rm={Rmh}
Rgh    g1h     gh    {Rgh}   
Lgh    GATEH   g1h   {Lgh*if(dgfs==99,0,1)}
Gsh    s1h     sh    VALUE={V(s1h,sh)/(Rsh*(1+(limit(V(TJH),-200,999)-25)*4m)-Rmh)}
Rsah   s1h     sh    1Meg
Lsh    VSW    s1h   {Lsh*if(dgfs==99,0,1)}
Rdah   d1h     d2h   {Rdh}
Ldh    VIN     d2h   {Ldh*if(dgfs==99,0,1)}
Rsbh   VSW    s1h   10
Rgah   GATEH   g1h   10
Rdbh   VIN     d2h   10
Rkel   sh      PHASE 100u

R2        w        0  1u
E2        Tj       w  VALUE={TEMP}
Vp        Tj1     Tj  0
R1        Tj     Tj1  1u
R3        Tj1    TJH  1u 
R4        Tj1    TJL  1u
G_powerl 0     Tj1  VALUE =
+{V(s1,s)*V(s1,s)/(Rs*(1+(limit(V(TJL),-200,999)-25)*4m)-Rm)+V(g,g1)*V(g,g1)/Rg+V(d1,d2)*V(d1,d2)/Rd}
G_powerh 0    Tj1   VALUE =
+{V(s1h,sh)*V(s1h,sh)/(Rsh*(1+(limit(V(TJH),-200,999)-25)*4m)-Rmh)+V(gh,g1h)*V(gh,g1h)/Rg+V(d1h,d2h)*V(d1h,d2h)/Rdh} 

.ENDS

**********

.SUBCKT ISG0614N06NM5H_hb VIN VSW GND GATEH GATEL TJH TJL TCASEH TCASEL PARAMS: dVth=0 dRdson=0 dgfs=0 dC=0 Zthtype=0 

.PARAM Ls=73p       Ld=76p       Ldh=8p       Lg=25p      Lsh=91p
.PARAM Rs=31u       Rg=1.8       Rd=62u       Rm=30u
.PARAM Inn=50       Unn=10       Rmax=1.61m   gmin=97
.PARAM act=8.63     Rsp=1

X1  d1 g s sp TJL S5_60_e1_var PARAMS: a={act} Rsp={Rsp} dVth={dVth} dR={dRdson} dgfs={dgfs} Inn={Inn} Unn={Unn} 
                                        +Rmax={Rmax} gmin={gmin} Rs={Rs} Rp={Rd} dC={dC} Rm={Rm}
Rg    g1      g    {Rg}   
Lg    GATEL   g1   {Lg*if(dgfs==99,0,1)}
Gs    s1      s    VALUE={V(s1,s)/(Rs*(1+(limit(V(TJL),-200,999)-25)*4m)-Rm)}
Rsa   s1      s    1Meg
Ls    GND     s1   {Ls*if(dgfs==99,0,1)}
Rda   d1      d2   {Rd}
Ld    VSW     d2   {Ld*if(dgfs==99,0,1)}
Rsb   GND     s1   10
Rga   GATEL   g1   10
Rdb   VSW     d2   10

G_powerl 0     TJL  VALUE =
+{V(s1,s)*V(s1,s)/(Rs*(1+(limit(V(TJL),-200,999)-25)*4m)-Rm)+V(g,g1)*V(g,g1)/Rg+V(d1,d2)*V(d1,d2)/Rd}

Rth1  TJL     t1              {3.11m+limit(Zthtype,0,1)*1.15m}
Rth2  t1      t2              {37.16m+limit(Zthtype,0,1)*13.76m}
Rth3  t2      t3              {183.08m+limit(Zthtype,0,1)*8.332m}
Rth4  t3      t4              {150.46m+limit(Zthtype,0,1)*108.1m}
Rth5  t4      TCASEL          {229.65m+limit(Zthtype,0,1)*164.995m}
Cth1  TJL     0               99.196u
Cth2  t1      0               341.611u
Cth3  t2      0               312u
Cth4  t3      0               1.674m
Cth5  t4      0               38.28m
Cth6  TCASEL  0               30m


.PARAM Rsh=31u       Rgh=1.8       Rdh=62u       Rmh=30u
.PARAM Innh=50       Unnh=10       Rmaxh=1.61m   gminh=97
.PARAM acth=8.63     Rsph=1
.PARAM Lgh=1.1n

X2  d1h gh sh sph TJH S5_60_e1_var PARAMS: a={acth} Rsp={Rsph} dVth={dVth} dR={dRdson} dgfs={dgfs} Inn={Innh} Unn={Unnh} 
                                        +Rmax={Rmaxh} gmin={gminh} Rs={Rsh} Rp={Rdh} dC={dC} Rm={Rmh}
Rgh    g1h     gh    {Rgh}   
Lgh    GATEH   g1h   {Lgh*if(dgfs==99,0,1)}
Gsh    s1h     sh    VALUE={V(s1h,sh)/(Rsh*(1+(limit(V(TJH),-200,999)-25)*4m)-Rmh)}
Rsah   s1h     sh    1Meg
Lsh    VSW     s1h   {Lsh*if(dgfs==99,0,1)}
Rdah   d1h     d2h   {Rdh}
Ldh    VIN     d2h   {Ldh*if(dgfs==99,0,1)}
Rsbh   VSW     s1h   10
Rgah   GATEH   g1h   10
Rdbh   VIN     d2h   10

G_powerh 0    TJH   VALUE =
+{V(s1h,sh)*V(s1h,sh)/(Rsh*(1+(limit(V(TJH),-200,999)-25)*4m)-Rmh)+V(gh,g1h)*V(gh,g1h)/Rgh+V(d1h,d2h)*V(d1h,d2h)/Rdh}

Rth1h  TJH      t1h           {3.11m+limit(Zthtype,0,1)*1.15m}
Rth2h  t1h      t2h           {37.16m+limit(Zthtype,0,1)*13.76m}
Rth3h  t2h      t3h           {183.08m+limit(Zthtype,0,1)*8.332m}
Rth4h  t3h      t4h           {150.46m+limit(Zthtype,0,1)*108.1m}
Rth5h  t4h      TCASEH        {229.65m+limit(Zthtype,0,1)*164.995m}
Cth1h  TJH      0             99.196u
Cth2h  t1h      0             341.611u
Cth3h  t2h      0             312u
Cth4h  t3h      0             1.674m
Cth5h  t4h      0             38.28m
Cth6h  TCASEH   0             30m
RthC1  t4       t4a           4.5
RthC2  t4a      t4h           4.5

.ENDS

**********

.SUBCKT ISG0614N06NM5HSC_hb VIN VSW GND GATEH GATEL TJH TJL TBOTH TBOTL TTOPH TTOPL PARAMS: dVth=0 dRdson=0 dgfs=0 dC=0 Zthtype=0  

.PARAM Ls=73p       Ld=76p       Ldh=8p       Lg=25p      Lsh=91p
.PARAM Rs=31u       Rg=1.8       Rd=62u       Rm=30u
.PARAM Inn=50       Unn=10       Rmax=1.61m   gmin=97
.PARAM act=8.63     Rsp=1

X1  d1 g s sp TJL S5_60_e1_var PARAMS: a={act} Rsp={Rsp} dVth={dVth} dR={dRdson} dgfs={dgfs} Inn={Inn} Unn={Unn} 
                                        +Rmax={Rmax} gmin={gmin} Rs={Rs} Rp={Rd} dC={dC} Rm={Rm}
Rg    g1      g    {Rg}   
Lg    GATEL   g1   {Lg*if(dgfs==99,0,1)}
Gs    s1      s    VALUE={V(s1,s)/(Rs*(1+(limit(V(TJL),-200,999)-25)*4m)-Rm)}
Rsa   s1      s    1Meg
Ls    GND     s1   {Ls*if(dgfs==99,0,1)}
Rda   d1      d2   {Rd}
Ld    VSW     d2   {Ld*if(dgfs==99,0,1)}
Rsb   GND     s1   10
Rga   GATEL   g1   10
Rdb   VSW     d2   10

G_powerl 0     TJL  VALUE =
+{V(s1,s)*V(s1,s)/(Rs*(1+(limit(V(TJL),-200,999)-25)*4m)-Rm)+V(g,g1)*V(g,g1)/Rg+V(d1,d2)*V(d1,d2)/Rd}

Rth1  TJL     t1              {3.11m+limit(Zthtype,0,1)*1.15m}
Rth2  t1      t2              {37.16m+limit(Zthtype,0,1)*13.76m}
Rth3  t2      t3              {183.08m+limit(Zthtype,0,1)*8.332m}
Rth4  t3      t4              {150.46m+limit(Zthtype,0,1)*108.1m}
Rth5  t4      TTOPL           {229.65m+limit(Zthtype,0,1)*164.995m}

Cth1  TJL     0               99.196u
Cth2  t1      0               341.611u
Cth3  t2      0               312u
Cth4  t3      0               1.674m
Cth5  t4      0               38.28m
Cth6  TTOPL   0               30m

Rth1lt TJL     ttl1           {233.64m+limit(Zthtype,0,1)*154.95m}
Rth2lt ttl1    ttl2           {87.8m+limit(Zthtype,0,1)*154.95m}
Rth3lt ttl2    TBOTL          {109.01m+limit(Zthtype,0,1)*159.65m}
Cth1lt ttl1    0              1.18m
Cth2lt ttl2    0              2.63m
Cth3lt TBOTL   0              3.87m


.PARAM Rsh=31u       Rgh=1.8       Rdh=62u       Rmh=30u
.PARAM Innh=50       Unnh=10       Rmaxh=1.61m   gminh=97
.PARAM acth=8.63     Rsph=1
.PARAM Lgh=1.1n

X2  d1h gh sh sph TJH S5_60_e1_var PARAMS: a={acth} Rsp={Rsph} dVth={dVth} dR={dRdson} dgfs={dgfs} Inn={Innh} Unn={Unnh} 
                                        +Rmax={Rmaxh} gmin={gminh} Rs={Rsh} Rp={Rdh} dC={dC} Rm={Rmh}
Rgh    g1h     gh    {Rgh}   
Lgh    GATEH   g1h   {Lgh*if(dgfs==99,0,1)}
Gsh    s1h     sh    VALUE={V(s1h,sh)/(Rsh*(1+(limit(V(TJH),-200,999)-25)*4m)-Rmh)}
Rsah   s1h     sh    1Meg
Lsh    VSW     s1h   {Lsh*if(dgfs==99,0,1)}
Rdah   d1h     d2h   {Rdh}
Ldh    VIN     d2h   {Ldh*if(dgfs==99,0,1)}
Rsbh   VSW     s1h   10
Rgah   GATEH   g1h   10
Rdbh   VIN     d2h   10

G_powerh 0    TJH   VALUE =
+{V(s1h,sh)*V(s1h,sh)/(Rsh*(1+(limit(V(TJH),-200,999)-25)*4m)-Rmh)+V(gh,g1h)*V(gh,g1h)/Rgh+V(d1h,d2h)*V(d1h,d2h)/Rdh}

Rth1h  TJH      t1h           {3.11m+limit(Zthtype,0,1)*1.15m}
Rth2h  t1h      t2h           {37.16m+limit(Zthtype,0,1)*13.76m}
Rth3h  t2h      t3h           {183.08m+limit(Zthtype,0,1)*8.332m}
Rth4h  t3h      t4h           {150.46m+limit(Zthtype,0,1)*108.1m}
Rth5h  t4h      TBOTH         {229.65m+limit(Zthtype,0,1)*164.995m}
Cth1h  TJH      0             99.196u
Cth2h  t1h      0             341.611u
Cth3h  t2h      0             312u
Cth4h  t3h      0             1.674m
Cth5h  t4h      0             38.28m
Cth6h  TBOTH    0             30m
Rth1ht TJH      tth1          {233.64m+limit(Zthtype,0,1)*154.95m}
Rth2ht tth1     tth2          {87.8m+limit(Zthtype,0,1)*154.95m}
Rth3ht tth2     TTOPH         {69.01m+limit(Zthtype,0,1)*159.65m}
Cth1ht tth1     0             1.18m
Cth2ht tth2     0             2.63m
Cth3ht TTOPH    0             3.87m

RthC1  t4       t4a           4.5
RthC2  t4a      tth2          4.5

.ENDS

***********



